US03953415
A solution of 10.5 g. (14.5 mmoles) of Z-29-32-OtBu in 130 ml. of methanol is hydrogenated in the presence of 1 g. of palladium-on-carbon. When the reaction terminates, the catalyst is removed by filtration, and the filtrate is evaporated to dryness. The residue is triturated with petroleum ether. 8.35 g. (97.5 %) of H-29-32-OtBu are obtained. M.p.: 81-82°C; Rf11 = 0.1; [α]D = -24.3° (c = 1, in ethanol).

reactant | Z-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 14.5 mmoles | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C35H54N4O12
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | H-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 97.5 % | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C | C27H48N4O10
